US09353107B2
Step-ii: tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate
To a solution of tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (235 mg, 0.334 mmol) in ethyl acetate/ethanol 15/15 mL was added palladium hydroxide (60 mg) and stirred under hydrogen atmosphere for 18 hours. The catalyst was filtered through celite and the solvent was distilled off to get 191 mg (81.0% yield) of the titled compound. MS: m/z=706.3 (M+1).

reactant | tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.334 mmol, 235 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)C3=CCN(CC3)C(=O)OC(C)(C)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C40H38FN5O4S
solvent | 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C1=CC=CC=C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H21BN2O2
catalyst | palladium hydroxide | 60 mg | [OH-].[Pd+2].[OH-]
product | tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 191 mg, 81.0% yield | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)C3CCN(CC3)C(=O)OC(C)(C)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C40H40FN5O4S
